US07485732B2
3-((S)-(4-chlorophenyl){3-[(1S)-1-(3,5-difluorophenyl)-2-methoxy-2-methylpropyl]azetidin-1-yl}methyl)benzonitrile
A solution of 46.6 mg (0.1 mmole) of 3-((S)-(4-chlorophenyl){3-[(1S)-1-(3,5-difluorophenyl)-2-hydroxy-2-methylpropyl]azetidin-1-yl}methyl)benzonitrile in THF was cooled to −78° C. To this was added 0.3 mL of a 1M solution of NaHMDS in THF. After 10 minutes, 20 uL of iodomethane was added and the solution was allowed to warm to rt. The solution was partitioned between ethyl acetate and water and the organic layer was washed with brine, dried over MgSO4 and concentrated. The residue was filtered through silica gel using 10% ethyl acetate-hexane to afford the title compound; 1H-NMR(CDCl3) δ 1.07 (s, 3H), 1.14 (S, 3H), 2.28 (t, 1H, J=7.5 Hz), 2.74 (d, 1H, J=10.7 Hz), 2.82 (t, 1H, J=7.5 Hz), 3.10-3.16 (m, 2H), 3.19 (s, 1H), 3.62 (m, 1H), 4.29 (s, 1H), 6.67-6.73 (m, 3H), 7.21-7.4 (m, 8H);); Mass Spectrum: m/e=481 (M+1, 35Cl) and 483 (M+1, 37Cl).

reactant | 3-((S)-(4-chlorophenyl){3-[(1S)-1-(3,5-difluorophenyl)-2-hydroxy-2-methylpropyl]azetidin-1-yl}methyl)benzonitrile | 0.1 mmole, 46.6 mg | ClC1=CC=C(C=C1)[C@@H](C=1C=C(C#N)C=CC1)N1CC(C1)[C@H](C(C)(C)O)C1=CC(=CC(=C1)F)F | C27H25ClF2N2O
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | iodomethane | 20 uL | IC | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | 3-((S)-(4-chlorophenyl){3-[(1S)-1-(3,5-difluorophenyl)-2-methoxy-2-methylpropyl]azetidin-1-yl}methyl)benzonitrile | ClC1=CC=C(C=C1)[C@@H](C=1C=C(C#N)C=CC1)N1CC(C1)[C@H](C(C)(C)OC)C1=CC(=CC(=C1)F)F | C28H27ClF2N2O
